US07754742B2
(3-Chloro-4-hydroxymethyl-benzyl)-carbamic acid tert-butyl ester
Add 1M lithium aluminum hydride in tetrahydrofuran (32 mL, 32 mmol) to anhydrous tetrahydrofuran (240 mL) at room temperature under argon gas, cool to 0° C. and add slowly a solution of 4-(tert-butoxycarbonylamino-methyl)-2-chloro-benzoic acid methyl ester (3.2 g, 10.7 mmol) in tetrahydrofuran (120 mL). The reaction mixture is stirred at 0° C. for 45 min. Quench the reaction mixture with saturated aqueous ammonium chloride and extract with ethyl acetate (3×). Combine the organic layers, wash with brine, dry over sodium sulfate, and concentrate. Purify the residue by chromatography (silica gel) eluting with 35% ethyl acetate/hexane to give the title compound (2.1 g, 7.7 mmol). MS (m/z): 294 (M+23).

reactant | lithium aluminum hydride | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(tert-butoxycarbonylamino-methyl)-2-chloro-benzoic acid methyl ester | 10.7 mmol, 3.2 g | COC(C1=C(C=C(C=C1)CNC(=O)OC(C)(C)C)Cl)=O | C14H18ClNO4
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 240 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 32 mmol, 32 mL | O1CCCC1 | C4H8O
product | (3-Chloro-4-hydroxymethyl-benzyl)-carbamic acid tert-butyl ester | 7.7 mmol, 2.1 g | C(C)(C)(C)OC(NCC1=CC(=C(C=C1)CO)Cl)=O | C13H18ClNO3
